US08648081B2
Stir a mixture of 2-(3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamido)acetic acid (230 mg, 0.44 mmol), HATU (251 mg, 0.66 mmol) and NEt3 (133 mg, 1.32 mmol) in DCM (5 mL) at room temperature for 15 min, followed by addition of 2-aminoacetonitrile hydrochloride (61 mg, 0.65 mmol). Stir the reaction mixture at room temperature for additional 1.5 hour. Dilute the reaction mixture with water (20 mL) and extract with DCM (20 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by preparative HPLC to afford N-(2-(cyanomethylamino)-2-oxoethyl)-3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamide as a white solid (110 mg, 44.7%). MS (m/z): 559.1 (M+1). 1H NMR (DMSO-d6, 400 MHz) δ 8.64 (t, J=5.6 Hz, 1H), 8.22 (t, J=5.6 Hz, 1H), 7.81-7.80 (m 1H), 7.68 (s, 2H), 4.35-4.22 (m, 2H), 4.16-4.15 (m, 2H), 3.88-3.86 (m, 2H), 2.94-2.86 (m, 4H), 1.70-1.69 (m, 4H).

reactant | 2-(3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamido)acetic acid | 0.44 mmol, 230 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)NCC(=O)O)CCCC2)C(F)(F)F | C21H17Cl2F3N2O4S
reactant | HATU | 0.66 mmol, 251 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NEt3 | 1.32 mmol, 133 mg | CCN(CC)CC | C6H15N
reactant | 2-aminoacetonitrile hydrochloride | 0.65 mmol, 61 mg | Cl.NCC#N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N-(2-(cyanomethylamino)-2-oxoethyl)-3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamide | 110 mg, 44.7% | C(#N)CNC(CNC(=O)C=1SC(=C2C1CCCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl)=O | C23H19Cl2F3N4O3S
